US07662831B2
Following the procedure of Example 1, Step 4, 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine (0.12 g, 0.50 mmol), 2-thiophenecarbonyl chloride (0.056 mL, 0.52 mmol) and poly-(4-vinylpyridine) (700 mg) in dichloromethane (10 mL) provided 0.10 g of N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-ylthiophene-2-carboxamide. MS (ESI) m/z 351; HPLC purity major: no impurities detected at 210-370 nm window; 98.7% at 240 nm (max. abs), RT=10.9 (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C21H22N2OS+H+, 351.15256; found (ESI, [M+H]+), 351.1516.

reactant | 5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine | 0.50 mmol, 0.12 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)N | C16H20N2
reactant | 2-thiophenecarbonyl chloride | 0.52 mmol, 0.056 mL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-ylthiophene-2-carboxamide | 0.10 g | C1=C(C=C2CCCN3C2=C1C1=C3CCCCC1)NC(=O)C=1SC=CC1 | C21H22N2OS
